US07534880B2
2. Preparation of 2-bromo-1-{4-[4-(1-bromo-cyclohexancarbonyl)-phenylsulphanyl]-phenyl}-2-methyl-propan-1-one
A drop of 48% HBr was added to a solution of 11.95 g (26.83 mmol) of 2-bromo-1-[4-(4-cyclohexancarbonyl-phenylsulphanyl)-phenyl]-2-methyl-propan-1-one dissolved in 120 ml of dichloromethane; in 15′ 1.37 ml (26.83 mmol) of bromine dissolved in 10 ml of dichloromethane were added drop wise. After 1 h the organic phase was washed with water and with a sodium metabisulphite solution. The organic phase was separated, washed with brine, dried with sodium sulphate, filtered and evaporated under vacuum obtaining 14.07 g of a yellowish oil.

reactant | HBr | Br | BrH
reactant | 2-bromo-1-[4-(4-cyclohexancarbonyl-phenylsulphanyl)-phenyl]-2-methyl-propan-1-one | 26.83 mmol, 11.95 g | BrC(C(=O)C1=CC=C(C=C1)SC1=CC=C(C=C1)C(=O)C1CCCCC1)(C)C | C23H25BrO2S
reactant | bromine | 26.83 mmol, 1.37 ml | BrBr | Br2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-bromo-1-{4-[4-(1-bromo-cyclohexancarbonyl)-phenylsulphanyl]-phenyl}-2-methyl-propan-1-one | 14.07 g | BrC(C(=O)C1=CC=C(C=C1)SC1=CC=C(C=C1)C(=O)C1(CCCCC1)Br)(C)C | C23H24Br2O2S
